US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-6-methyl-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (27)
A mixture of 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (0.05 g, 0.1 mmol), methylboronic acid (0.01 g, 0.2 mmol), tetrakis(triphenylphosphine)palladium (0.06 g, 0.05 mmol) and a solution of 2 N aqueous sodium carbonate (0.1 mL, 0.2 mmol) was added in a sealed tube with DMF (5 mL). The tube was capped and the resulting solution was degassed with argon for 5 minutes. The reaction was heated to 120° C. by microwave irradiation for 2.5 hours. The reaction was cooled to room temperature and quenched with saturated aqueous ammonium chloride (5 mL) and diluted with ethyl acetate (20 mL). The organic layer was separated, washed with brine (10 mL) and dried over sodium sulfate and concentrated. The residue was purified by silica gel chromatography eluting with a gradient of 20-50% ethyl acetate in hexanes to afford the title compound.

reactant | 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | 0.1 mmol, 0.05 g | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)Br)C2=CC=C(C=C2)F)C=C1 | C22H18BrFN4O3S
reactant | methylboronic acid | 0.2 mmol, 0.01 g | CB(O)O | CH5BO2
reactant | sodium carbonate | 0.2 mmol, 2 N, 0.1 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(4-Fluoro-phenyl)-6-methyl-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)C)C2=CC=C(C=C2)F)C=C1 | C23H21FN4O3S
